US04284644
To a solution of 0.408 g. of 4',5'-dihydrospiro[benzo[b]furan-2(3H), 3'(2'H)-furan]-2',3-dione in 3 ml. of concentrated sulfuric acid was added a mixture of 0.35 ml. of nitric acid (d=1.42) and 0.36 ml. of concentrated sulfuric acid, dropwise under ice-cooling, and the mixture was stirred for 2 hours. The reaction mixture was poured into ice-water and the precipitated crystals were collected by filtration, washed with water, dried and recrystallized from ethyl acetate. By the above procedure there was obtained colorless needles of 4',5'-dihydro-5-nitrospiro[benzo[b]furan-2(3H),3'(2'H)-furan]-2',3-dione. m.p. 199°-200° C.

reactant | 4',5'-dihydrospiro[benzo[b]furan-2(3H), 3'(2'H)-furan]-2',3-dione | O1C(C2(CC1)C(C1=C(O2)C=CC=C1)=O)=O | C11H8O4
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | nitric acid | [N+](=O)(O)[O-] | HNO3
product | 4',5'-dihydro-5-nitrospiro[benzo[b]furan-2(3H),3'(2'H)-furan]-2',3-dione | [N+](=O)([O-])C1=CC2=C(OC3(C(OCC3)=O)C2=O)C=C1 | C11H7NO6
